* D:\GitHub Repositories\GaN-Studies\Buck Converter\SynchBuck - with Parasitics.asc
XU1 GateTop DCbus N037 0 N024 GS66508T_L3V2
XU2 GateTop DCbus SWnode 0 N025 GS66508T_L3V2
XU3 GateTop2 DCbus SWnode2 0 N026 GS66508T_L3V2
XU4 GateTop2 DCbus SWnode2 0 N027 GS66508T_L3V2
XU5 GateBot N052 0 0 N047 GS66508T_L3V2
XU6 GateBot N053 0 0 N048 GS66508T_L3V2
XU7 GateBot2 N054 0 0 N049 GS66508T_L3V2
XU8 GateBot2 N055 0 0 N050 GS66508T_L3V2
L1 SWnode2 Vo {Lfilt} Rser=0.0099
C1 Vo 0 {Cfilt} V={Vout} Rser=0.0053
R1 Vo 0 {Rload}
V2 N024 0 {Tj}
V3 N025 0 {Tj}
V4 N026 0 {Tj}
V5 N027 0 {Tj}
V6 N047 0 {Tj}
V7 N048 0 {Tj}
V8 N050 0 {Tj}
V9 N049 0 {Tj}
R2 GateTop N001 {Ron}
R3 N002 N001 {Roff}
D1 GateTop N002 D
R4 GateBot N020 {Ron}
R5 N021 N020 {Roff}
D2 GateBot N021 D
V11 DCbus 0 {Vin}
V1 N003 SWnode PULSE({Voff} {Von} {DeadTime} 2e-9 2e-9 {D/fsw} {1/fsw})
V10 N022 0 PULSE({Voff} {Von} {2*DeadTime+D/fsw} 2e-9 2e-9 {(1-D)/fsw-2*DeadTime} {1/fsw})
L2 SWnode Vo {Lfilt} Rser=0.0099
R6 GateTop2 N023 {Ron}
R7 N028 N023 {Roff}
D3 GateTop2 N028 D
R8 GateBot2 N051 {Ron}
R9 N056 N051 {Roff}
D4 GateBot2 N056 D
V12 N038 SWnode2 PULSE({Voff} {Von} {DeadTime + phase} 2e-9 2e-9 {D/fsw} {1/fsw})
V13 N057 0 PULSE({Voff} {Von} {2*DeadTime+D/fsw + phase} 2e-9 2e-9 {(1-D)/fsw-2*DeadTime} {1/fsw})
C2 N006 N014 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C3 N005 N013 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C4 N004 N012 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C5 N009 N017 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C6 N008 N016 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C7 N007 N015 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C8 N011 N019 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C9 N010 N018 0.1µ V={Vin} Rser=17.5m Lser=0.75n
L3 N004 DCBus 3.08n Rser=10.4m
L4 N005 DCBus 3.08n Rser=10.3m
L5 N006 DCBus 3.08n Rser=10.3m
L6 N007 DCBus 0.135n Rser=1.41m
L7 N008 DCBus 0.13n Rser=1.15m
L8 N009 DCBus 0.127n Rser=0.981m
L9 N010 DCBus 0.126n Rser=0.945m
L10 N011 DCBus 0.128n Rser=1.03m
L11 0 N012 2.13n Rser=6.88m
L12 0 N013 2.12n Rser=6.64m
L13 0 N014 2.12n Rser=6.46m
L14 0 N015 7.96n Rser=26.1m
L15 0 N016 7.96n Ipk=26.3m
L16 0 N017 7.96n Rser=26.4m
L17 0 N018 7.96n Rser=26.7m
L18 0 N019 7.96n Rser=26.9m
C10 N031 N041 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C11 N030 N040 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C12 N029 N039 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C13 N034 N044 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C14 N033 N043 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C15 N032 N042 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C16 N036 N046 0.1µ V={Vin} Rser=17.5m Lser=0.75n
C17 N035 N045 0.1µ V={Vin} Rser=17.5m Lser=0.75n
L19 N029 DCBus 3.08n Rser=10.4m
L20 N030 DCBus 3.08n Rser=10.3m
L21 N031 DCBus 3.08n Rser=10.3m
L22 N032 DCBus 0.135n Rser=1.41m
L23 N033 DCBus 0.13n Rser=1.15m
L24 N034 DCBus 0.127n Rser=0.981m
L25 N035 DCBus 0.126n Rser=0.945m
L26 N036 DCBus 0.128n Rser=1.03m
L27 0 N039 2.13n Rser=6.88m
L28 0 N040 2.12n Rser=6.64m
L29 0 N041 2.12n Rser=6.46m
L30 0 N042 7.96n Rser=26.1m
L31 0 N043 7.96n Ipk=26.3m
L32 0 N044 7.96n Rser=26.4m
L33 0 N045 7.96n Rser=26.7m
L34 0 N046 7.96n Rser=26.9m
L35 SWnode N052 1.1n Rser=2.34m
L36 SWnode N053 1.1n Rser=2.34m
L37 SWnode2 N054 1.1n Rser=2.34m
L38 SWnode2 N055 1.1n Rser=2.34m
L39 N003 N001 1.4n
L40 N022 N020 1.4n
L41 N038 N023 1.4n
L42 N057 N051 1.4n
L43 N037 SWnode 1e-9
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.param Rload = Vout / Iout;
.param Ron=10 Roff=2;
.param Iout=20 Vin=540 Vout=400;
.param D = Vout / Vin;
.param fsw =100k
.param K = 0.25;
.param Lfilt = 1/K * (1- Vout/Vin)*Vout/Iout*1/fsw
.param Cfilt=20e-6;
.params Von = 6 Voff = -3;
.param DeadTime = 30e-9;
.tran 0 1.25e-3 1e-3
.param Tj = 150
.ic V(Vo) = {Vout}
.param phase = 180/360 * 1/fsw
* .param Lfilt = 1/K * (1- Vout/Vin)*Vout/Iout*1/fsw
.lib GaN_LTspice_GS66508T_L3V2.lib
.backanno
.end
